US04992547
2-(4-Fluorophenyl)-3,3-dimethyl-2-methoxyoxirane
39.22 g (0.16 mol) of 2-bromo-1-(4-fluorophenyl)-2-methylpropan-1-one, prepared by brominating 1-(4-fluorophenyl)-2-methylpropan-1-one analogously to European Patent Application No. 3,002, are dissolved in 50 ml of methanol. 23.5 g (0.176 mol) of methanolic 30% strength sodium methylate solution are added dropwise at room temperature. The methanol is then distilled off, and the residue is taken up with diethyl ether. The salt is filtered off, and the ether solution is concentrated. The liquid crude product is further reacted as described hereinafter without further purification.

reactant | 2-bromo-1-(4-fluorophenyl)-2-methylpropan-1-one | 0.16 mol, 39.22 g | BrC(C(=O)C1=CC=C(C=C1)F)(C)C | C10H10BrFO
reactant | 1-(4-fluorophenyl)-2-methylpropan-1-one | FC1=CC=C(C=C1)C(C(C)C)=O | C10H11FO
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-Fluorophenyl)-3,3-dimethyl-2-methoxyoxirane | FC1=CC=C(C=C1)C1(OC1(C)C)OC | C11H13FO2
